Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Leg pain
 
Major Surgical or Invasive Procedure:
___ - L4/L5 laminectomy with Dr. ___

 
___ of Present Illness:
___ male who had a
laminectomy of the caudal lumbar spine with Dr. ___ at
___, ___, with subsequent wound
infection, and ultimately ongoing neurogenic claudication, with
imaging evidence postoperatively of ongoing severe stenosis at
L4-L5.  For that reason, I expressed to him that he could be
considered a candidate for completion of his laminectomy,
decompression of L4-L5, with expectation to decrease his leg
pain, improve his tolerance for walking.

 
Past Medical History:
1. CAD
2. DM
3. hypertension
4. hypercholesterolemia
5. Systolic heart failure
 
Social History:
___
Family History:
Father: MI, age ___
 
Physical Exam:
Gen: NAD, A&Ox3
Back: Incision c/d/i, no erythema
BLE: + ___
     SILT @ ___
     WWP
 
Pertinent Results:
___ 05:35AM BLOOD WBC-9.4 RBC-3.76* Hgb-11.5* Hct-32.3* 
MCV-86 MCH-30.7 MCHC-35.7* RDW-13.0 Plt ___
___ 05:25AM BLOOD WBC-9.4 RBC-3.95* Hgb-12.0* Hct-34.7* 
MCV-88 MCH-30.3 MCHC-34.6 RDW-13.1 Plt ___
___ 10:45AM BLOOD WBC-7.5 RBC-4.11* Hgb-12.5* Hct-35.4* 
MCV-86 MCH-30.5 MCHC-35.4* RDW-13.2 Plt ___
___ 05:25AM BLOOD Glucose-151* UreaN-16 Creat-0.8 Na-136 
K-4.0 Cl-98 HCO3-33* AnGap-9
___ 05:25AM BLOOD CRP-18.1*

___ 05:35AM BLOOD ESR-62*
 
Brief Hospital Course:
The patient was admitted to the Orthopaedic Spine service 
following the procedure described above. Please see operative 
report for full details. The patient tolerated the procedure 
without difficulty and was transferred to the PACU in stable 
condition, and then transferred to the floor in the usual 
fashion. Postoperatively, pain was controlled with a PCA, with 
transition PO pain meds as tolerated. Perioperative antibiotics 
and TEDS/SCDs for DVT prophylaxis were given as per routine. 
Diet was advanced without complication and the patient made 
steady progress with Physical Therapy. The hospitalization has 
otherwise been uneventful and the patient has done well. 

At discharge, vital signs are stable, the patient is afebrile, 
tolerating a regular diet, voiding spontaneously every shift and 
pain is well controlled. The extremities are neurovascularly 
intact distally throughout. All incisions are clean, dry and 
intact without evidence of infection, hematoma or seroma. 

The patient is discharged home in stable condition.  Patient 
given detailed precautionary instructions and instructions for 
the appropriate follow up care.  

 
Medications on Admission:
amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
lisinopril-hydrochlorothiazide ___ mg Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
glyburide 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
metformin 1,000 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
Toprol XL 50 mg Tablet Extended Release 24 hr Sig: One (1) 
Tablet Extended Release 24 hr PO once a day.  

 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain: Do not drink or drive while taking this 
medication. ___ ___.
Disp:*100 Tablet(s)* Refills:*0*
2. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*
3. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. lisinopril-hydrochlorothiazide ___ mg Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
7. glyburide 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. metformin 1,000 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
9. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
10. Toprol XL 50 mg Tablet Extended Release 24 hr Sig: One (1) 
Tablet Extended Release 24 hr PO once a day.  
11. Tylenol ___ mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for fever or pain.  
12. gabapentin 300 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
13. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
14. ranitidine HCl 150 mg Tablet Sig: ___ Tablets PO BID (2 
times a day) as needed for dyspepsia.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L4-L5 spinal stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
1. Please return to the emergency department or notify MD if you 
should experience: severe pain not relieved by medication, 
increased swelling, decreased sensation, difficulty with 
movement, fevers >101.5, shaking chills, redness or drainage at 
the incision site, chest pain, shortness of breath or any other 
concerns.
2. Please follow up with your PCP regarding this admission and 
any new medications and refills.
3. Please see your Orthopaedic Surgeon for a follow-up 
appointment two weeks from the date of your surgery for checkup 
and staple/suture removal.
4. Resume your ___ hospital medications unless otherwise 
instructed.
5. You have been given medications for your pain control. Please 
do not operate heavy machinery, drive, or drink alcohol when 
taking this medication. As your pain improves, please decrease 
the amount of pain medication (by taking fewer tablets and/or 
increasing the time interval between doses). This medication can 
cause constipation, so you should drink 8 glasses of water daily 
and take a stool softener as needed to prevent this side effect.
6. You may not drive a car until cleared to do so by your 
surgeon or your primary MD.
7. Please keep your wounds clean. You can get the wound wet or 
take a shower starting from 7 days after surgery, but no baths 
or swimming for at least 4 weeks. Dry sterile dresssing may be 
changed daily.  No dressing is needed if wound continues to be 
non-draining. Any stitches or staples that need to be removed 
will be taken out at your 2-week follow up appointment.
9. Activity: As tolerated.

 
Followup Instructions:
___